US03932630
c. 1-Phenyl-5-methylsulphinyl-3-hydroxy-1,2,4-triazole
An amount of 41.4 g of 1-phenyl-5-methylmercapto-3-hydroxy-1,2,4-triazole is suspended at 50°C in 400 ml of ethyl acetate. An addition is then made dropwise, within 15 minutes, of 60 ml of a 60% solution of peroxyacetic acid in glacial acetic acid at 45°-50°C. After completion of the addition, the solution is stirred for 2 hours at 50°C, and the cooled to 20°C. The precipitated product is filtered off, washed with water, and dried in vacuo. The resulting product is 1-phenyl-5-methylsulphinyl-3-hydroxy-1,2,4-triazole in the form of white crystals, M.P. 180°-182°C.

reactant | 1-phenyl-5-methylmercapto-3-hydroxy-1,2,4-triazole | 41.4 g | C1(=CC=CC=C1)N1N=C(N=C1SC)O | C9H9N3OS
reactant | peroxyacetic acid | C(C)(=O)OO | C2H4O3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Phenyl-5-methylsulphinyl-3-hydroxy-1,2,4-triazole | C1(=CC=CC=C1)N1N=C(N=C1S(=O)C)O | C9H9N3O2S
